US04845302
To 500 g (1.933 mol) of (E/Z)-2-[2-(3-chlorophenylethenyl]benzoic acid (in a ratio of about 23:77) in 500 ml of methylene chloride were added dropwise with stirring at the reflux temperature 241.6 g (2.031 mol) of thionyl chloride in the course of 1 hour and stirred in for 1 hour. Thereafter a suspension of 333 g (2.497 mol) of anhydrous aluminum chloride in 100 ml of methylene chloride was added at room temperature in the course of 45 min and stirred in at room temperature for 30 min, and the reaction mixture was then poured with stirring onto a mixture of 3 kg of ice and 1 l of water. The hydrolysis mixture was stirred for about 30 min. 1 l of petroleum ether (boiling range from 40° to 60° C.) was then added with stirring. The mixture was stirred for a further 30 min and then filtered with suction. The filter residue was washed first with 5 l of water and then with 1 l of petroleum ether (boiling range from 40° to 60° C.) and dried. 270 g were isolated of 2-chloro-5H-dibenzo-[a,d]cyclohepten-5-one in 58% yield; melting point 160°-161° C.

reactant | 2-(3-chlorophenylethenyl]benzoic acid | ClC=1C=C(C=CC1)C=CC1=C(C(=O)O)C=CC=C1 | C15H11ClO2
reactant | thionyl chloride | 2.031 mol, 241.6 g | S(=O)(Cl)Cl | Cl2OS
reactant | aluminum chloride | 2.497 mol, 333 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | water | 1 l | O | H2O
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 2-chloro-5H-dibenzo-[a,d]cyclohepten-5-one | 58% yield | ClC1=CC2=C(C(C3=C(C=C2)C=CC=C3)=O)C=C1 | C15H9ClO
